US05169430
Preparation of N,N-dimethyl-2-chloro-5-nitrobenzenesulfonamide.
To a solution of 80 g of 2-chloro-5-nitrobenzenesulfonyl chloride (Example A-1 above) in 200 ml of methylene chloride heated to reflux, was slowly added a solution of 30 g of dimethylamine hydrochloride in 30 ml of water followed by a dropwise addition of triethylamine. After completion of the addition, the reaction mixture was refluxed for 20 minutes, cooled to roomtemperature and concentrated by rotatory evaporation. The residue was treated with water and the resulting solid was filtered and recrystallizedfrom ethanol, affording 61 g of the title compound, mp 138°-140° C.

reactant | 2-chloro-5-nitrobenzenesulfonyl chloride | 80 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
reactant | dimethylamine hydrochloride | 30 g | Cl.CNC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | N,N-dimethyl-2-chloro-5-nitrobenzenesulfonamide | 61 g | CN(S(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C | C8H9ClN2O4S
